US07432284B2
To a solution of 3-(2-chloro-4-fluoro-3-methoxyphenyl)propanoic acid (20.74 g, 88 mmol) in benzene (440 mL) was added DMF (0.14 mL, 1.8 mmol) followed by gradual addition of oxalyl chloride (15.4 mL, 177 mmol) during 25 minutes. After 2 hours, the reaction mixture was evaporated under vacuum to give a yellow oil. The oil was dissolved in 100 mL of benzene and evaporated under vacuum. This process was then repeated. The resulting oil was dissolved in dichloromethane (500 mL) and solid aluminum chloride (12.9 g, 96.7 mmol) was added during 5 minutes using a solid addition funnel. After 20 minutes, the reaction mixture was poured onto ca 1000 cc of ice. When most of the ice had melted, the layers were separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were washed successively with 2N HCl, water and brine. After drying over sodium sulfate, the solution was evaporated under vacuum to give a yellow solid. Flash chromatography through silica gel eluting with EtOAc/hexanes/dichloromethane (10:95:95) gave 4-chloro-6-fluoro-5-methoxyindanone as a white solid.

reactant | 3-(2-chloro-4-fluoro-3-methoxyphenyl)propanoic acid | 88 mmol, 20.74 g | ClC1=C(C=CC(=C1OC)F)CCC(=O)O | C10H10ClFO3
reactant | DMF | 1.8 mmol, 0.14 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 177 mmol, 15.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 96.7 mmol, 12.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 440 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 4-chloro-6-fluoro-5-methoxyindanone | ClC1=C2CCC(C2=CC(=C1OC)F)=O | C10H8ClFO2
